US08217051B2
In a manner similar to the method described in Example 1, 6-chlorooxindole (2 g, 11.9 mmol) (Alfa) was reacted with 3-furaldehyde (1.04 mL, 11.9 mmol) and piperidine (1.18 mL, 11.9 mmol) in methanol to give E/Z-6-chloro-3-furan-3-ylmethylene-1,3-dihydro-indol-2-one as a yellow solid (Yield 1.45 g, 55%)

reactant | 6-chlorooxindole | 11.9 mmol, 2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 3-furaldehyde | 11.9 mmol, 1.04 mL | O1C=C(C=C1)C=O | C5H4O2
reactant | piperidine | 11.9 mmol, 1.18 mL | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | Z-6-chloro-3-furan-3-ylmethylene-1,3-dihydro-indol-2-one | Yield 1.45 g, 55% | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=COC=C1 | C13H8ClNO2
